### PR TITLE
Changes explicit argument `y` to implicit in `Induction.WellFounded.WfRec`

### LINKED ISSUE #2083: Definition of `Induction.WellFounded.WfRec`
Currently, the definition:
```agda
WfRec : Rel A r → ∀ {ℓ} → RecStruct A ℓ _
WfRec _<_ P x = ∀ y → y < x → P y
```
suffers from two (unfortunate) defects:
* the use of the name `RecStruct`, when this type is nothing more or less than that of `PredicateTransformer` (or: what you will...) which only really takes on the role of being a structure-for-recursion once a given such `T : PredicateTransformer`  is accompanied by a *proof* that `T P ⊆′ P` for suitable `P`...;
* the *explicit* quantification over `y` in `WfRec`, which leads, infectively, to a profusion of (almost-?)always-inferrable arguments when working with subsequent `Acc`essibility and `WellFounded`ness proofs. ADDRESSED by #2084 

The first of these is, indeed, unfortunate but ignorable.

The second is, frankly, a complete pain, but likewise (almost) completely avoidable. 

PROPOSAL: to make the *breaking* change for v2.0 that the definition be changed to:
```agda
WfRec _<_ P x = ∀ {y} → y < x → P y
```
together with all of its downstream consequences... including the in-progress #2077 #2082 etc.

### PR DESCRIPTION
**Pull request by jamesmckinna**
See the discussion on issue #2083 . 
"Almost-always-inferrable" turns out to cover ~~86~~ *all*  instances, but with ~~10~~ 1 instance ~~s retained, or~~ inserted for typechecking consistency. (UPDATED:  think the arithmetic is correct here!)

A further change in the types of `SubsetRecursor` and `SubsetRecursorBuilder` to make their first argument implicit as well might make certain other uses eliminable... but not for this PR, I think.

### CODE REVIEW

File: src/Data/Digit.agda [hunk 1]
```diff
@@ -107,9 +107,8 @@ toDigits base@(suc (suc k)) n = <′-rec Pred helper n
 
   helper : ∀ n → <′-Rec Pred n → Pred n
   helper n                       rec with n divMod base
-  helper .(toℕ r + 0     * base) rec | result zero    r refl = ([ r ] , refl)
-  helper .(toℕ r + suc x * base) rec | result (suc x) r refl =
-    cons r (rec (suc x) (lem x k (toℕ r)))
+  ... | result zero    r eq = ([ r ] , P.sym eq)
+  ... | result (suc x) r refl = cons r (rec (lem x k (toℕ r)))
```
Comment (jamesmckinna) [inline src/Data/Digit.agda:111]: This was an only-partially-successful attempt to make `helper` more lazy in its `with`-bound argument `eq`. Can be omitted from this PR in favour of a more thorough consideration later...

**Comment by jamesmckinna** [comment]
Ah... the merge conflict as a knock-on effect of successfully merging #2082 ... hopefully fixed now.

File: src/Data/Product/Relation/Binary/Lex/Strict.agda [hunk 2]
```diff
@@ -202,13 +202,13 @@ module _ {_≈₁_ : Rel A ℓ₁} {_<₁_ : Rel A ℓ₂} {_<₂_ : Rel B ℓ
     ×-acc : ∀ {x y} →
             Acc _<₁_ x → Acc _<₂_ y →
             WfRec _<ₗₑₓ_ (Acc _<ₗₑₓ_) (x , y)
-    ×-acc (acc rec₁) acc₂ (u , v) (inj₁ u<x)
-      = acc (×-acc (rec₁ u u<x) (wf₂ v))
-    ×-acc acc₁ (acc rec₂) (u , v) (inj₂ (u≈x , v<y))
+    ×-acc (acc rec₁) acc₂ {u , v} (inj₁ u<x)
```
Comment (jamesmckinna) [inline src/Data/Product/Relation/Binary/Lex/Strict.agda:205]: Instance 1/8 of @MatthewDaggitt 's issue about record types.

File: src/Data/Product/Relation/Binary/Lex/Strict.agda [hunk 3]
```diff
@@ -202,13 +202,13 @@ module _ {_≈₁_ : Rel A ℓ₁} {_<₁_ : Rel A ℓ₂} {_<₂_ : Rel B ℓ
...
+      = acc (×-acc (rec₁ {u} u<x) (wf₂ v))
```
Comment (jamesmckinna) [inline src/Data/Product/Relation/Binary/Lex/Strict.agda:206]: Instance 2/8, but in fact, this one is inferrable too... I left it in, for 'documentation', but more than happy to eliminate!

File: src/Data/Product/Relation/Binary/Lex/Strict.agda [hunk 4]
```diff
@@ -202,13 +202,13 @@ module _ {_≈₁_ : Rel A ℓ₁} {_<₁_ : Rel A ℓ₂} {_<₂_ : Rel B ℓ
...
+    ×-acc acc₁ (acc rec₂) (inj₂ (u≈x , v<y))
       = Acc-resp-flip-≈
         (×-respectsʳ {_<₁_ = _<₁_} {_<₂_ = _<₂_} trans resp (≡.respʳ _<₂_))
         (u≈x , ≡.refl)
-        (acc (×-acc acc₁ (rec₂ v v<y)))
+        (acc (×-acc acc₁ (rec₂ v<y)))
```
Comment (jamesmckinna) [inline src/Data/Product/Relation/Binary/Lex/Strict.agda:211]: And not needed here at all.

File: src/Induction/WellFounded.agda [hunk 5]
```diff
@@ -68,22 +68,22 @@ module _ {_≈_ : Rel A ℓ₁} {_<_ : Rel A ℓ₂} where
 module Some {_<_ : Rel A r} {ℓ} where
 
   wfRecBuilder : SubsetRecursorBuilder (Acc _<_) (WfRec _<_ {ℓ = ℓ})
-  wfRecBuilder P f x (acc rs) = λ y y<x →
-    f y (wfRecBuilder P f y (rs y y<x))
+  wfRecBuilder P f x (acc rs) = λ y<x →
+    f _ (wfRecBuilder P f _ (rs y<x))
```
Comment (jamesmckinna) [inline src/Induction/WellFounded.agda:72]: The typechecker knows, so you don't have to!

File: src/Induction/WellFounded.agda [hunk 6]
```diff
@@ -68,22 +68,22 @@ module _ {_≈_ : Rel A ℓ₁} {_<_ : Rel A ℓ₂} where
...
 
   wfRec : SubsetRecursor (Acc _<_) (WfRec _<_)
   wfRec = subsetBuild wfRecBuilder
 
   unfold-wfRec : (P : Pred A ℓ) (f : WfRec _<_ P ⊆′ P) {x : A} (q : Acc _<_ x) →
-                 wfRec P f x q ≡ f x (λ y y<x → wfRec P f y (acc-inverse q y y<x))
+                 wfRec P f x q ≡ f x (λ y<x → wfRec P f _ (acc-inverse q y<x))
```
Comment (jamesmckinna) [inline src/Induction/WellFounded.agda:78]: Ditto.

File: src/Induction/WellFounded.agda [hunk 7]
```diff
@@ -96,23 +96,22 @@ module All {_<_ : Rel A r} (wf : WellFounded _<_) ℓ where
 module FixPoint
   {_<_ : Rel A r} (wf : WellFounded _<_)
   (P : Pred A ℓ) (f : WfRec _<_ P ⊆′ P)
-  (f-ext : (x : A) {IH IH′ : WfRec _<_ P x} → (∀ {y} y<x → IH y y<x ≡ IH′ y y<x) → f x IH ≡ f x IH′)
+  (f-ext : (x : A) {IH IH′ : WfRec _<_ P x} → (∀ {y} y<x → IH {y} y<x ≡ IH′ y<x) → f x IH ≡ f x IH′)
```
Comment (jamesmckinna) [inline src/Induction/WellFounded.agda:99]: Instance 3/8: the typechecker needs a nudge here in the type of `f-ext`, but that is all.

File: src/Induction/WellFounded.agda [hunk 8]
```diff
@@ -96,23 +96,22 @@ module All {_<_ : Rel A r} (wf : WellFounded _<_) ℓ where
...
-  wfRecBuilder-wfRec : ∀ {x y} y<x → wfRecBuilder P f x y y<x ≡ wfRec P f y
-  wfRecBuilder-wfRec {x} {y} y<x with wf x
-  ... | acc rs = some-wfRec-irrelevant y (rs y y<x) (wf y)
+  open All wf {ℓ}
+  wfRecBuilder-wfRec : ∀ {x y} y<x → wfRecBuilder P f x y<x ≡ wfRec P f y
+  wfRecBuilder-wfRec {x} {y} y<x with acc rs ← wf x
+   = some-wfRec-irrelevant y (rs y<x) (wf y)
 
-  unfold-wfRec : ∀ {x} → wfRec P f x ≡ f x (λ y _ → wfRec P f y)
+  unfold-wfRec : ∀ {x} → wfRec P f x ≡ f x (λ {y} _ → wfRec P f y)
```
Comment (jamesmckinna) [inline src/Induction/WellFounded.agda:112]: And here: artefact of type of `wfRec`, but that I think does need to retain its argument. Properties of it do not, however!

File: src/Data/Graph/Acyclic.agda [hunk 9]
```diff
@@ -313,7 +313,7 @@ module _ {ℓ e} {N : Set ℓ} {E : Set e} where
     expand n rec (c & g) =
       node (label c)
            (List.map
-              (Prod.map id (λ i → rec (n - suc i) (lemma n i) (g [ i ])))
+              (Prod.map id (λ i → rec {n - suc i} (lemma n i) (g [ i ])))
```
Comment (jamesmckinna) [inline src/Data/Graph/Acyclic.agda:316]: Could be read off from the type of `lemma`...

File: src/Data/Fin/Induction.agda [hunk 10]
```diff
@@ -120,7 +120,7 @@ module _ {_≈_ : Rel (Fin n) ℓ} where
          ((xs : Vec (Fin n) m) → Linked (flip _⊏_) (i ∷ xs) → WellFounded _⊏_) →
          Acc _⊏_ i
     go zero    i k = k [] [-] i
-    go (suc m) i k = acc $ λ j j⊏i → go m j (λ xs i∷xs↑ → k (j ∷ xs) (j⊏i ∷ i∷xs↑))
+    go (suc m) i k = acc λ {j} j⊏i → go m j (λ xs i∷xs↑ → k (j ∷ xs) (j⊏i ∷ i∷xs↑))
```
Comment (jamesmckinna) [inline src/Data/Fin/Induction.agda:123]: I need to look more closely at this one.

File: src/Data/Product/Relation/Binary/Lex/Strict.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Data/Product/Relation/Binary/Lex/Strict.agda]: This turns out, in fact, to be eliminable: typechecker can infer `v`!

File: src/Codata/Musical/Colist/Infinite-merge.agda [hunk 11]
```diff
@@ -195,7 +195,7 @@ module _ {a p} {A : Set a} {P : A → Set p} where
       ... | inj₂ q | P.refl | q≤p =
         Prod.map there
                  (P.cong (there ∘ _⟨$⟩_ (Inverse.from (Any-⋎P xs)) ∘ inj₂))
-                 (rec (♭ xss , q) (s≤′s q≤p))
+                 (rec {♭ xss , q} (s≤′s q≤p))
```
Comment (jamesmckinna) [inline src/Codata/Musical/Colist/Infinite-merge.agda:198]: Amazingly, this one is eliminable as well, but I have left it in as a comment, for the sake of documentation in the proof.

**Comment by jamesmckinna** [comment]
Re: @MatthewDaggitt 's [concern about record types](https://github.com/agda/agda-stdlib/issues/2083#issuecomment-1714785701), it appears, at least for `stdlib`, that the issue need not, in fact, arise.

File: src/Data/Digit.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Data/Digit.agda:111]: Looks like an improvement to me, so happy to keep it in :+1:

File: src/Induction/WellFounded.agda [hunk 12]
```diff
@@ -68,22 +68,21 @@ module _ {_≈_ : Rel A ℓ₁} {_<_ : Rel A ℓ₂} where
...
+                 wfRec P f x q ≡ f x λ y<x → wfRec P f _ (acc-inverse q y<x)
   unfold-wfRec P f (acc rs) = refl
 
 
 ------------------------------------------------------------------------
 -- Well-founded induction for all elements, assuming they are all
 -- accessible:
 
-module All {_<_ : Rel A r} (wf : WellFounded _<_) ℓ where
+module All {_<_ : Rel A r} (wf : WellFounded _<_) {ℓ} where
```
Comment (MatthewDaggitt) [inline src/Induction/WellFounded.agda:85]: This also needs to go in the CHANGELOG

File: src/Codata/Musical/Colist/Infinite-merge.agda [hunk 13]
```diff
@@ -195,7 +195,7 @@ Any-merge {P = P} xss = mk↔ₛ′ (proj₁ ∘ to xss) from to∘from (proj₂
     ... | inj₂ q | P.refl | q≤p =
       Prod.map there
                (P.cong (there ∘ (Inverse.from (Any-⋎P xs)) ∘ inj₂))
-               (rec (♭ xss , q) (s≤′s q≤p))
+               (rec {- {♭ xss , q} -} (s≤′s q≤p))
```
Comment (MatthewDaggitt) [inline src/Codata/Musical/Colist/Infinite-merge.agda:198]: Can remove the comment

File: src/Data/List/Relation/Binary/Permutation/Setoid/Properties.agda [hunk 14]
```diff
@@ -384,15 +384,18 @@ split v as bs p = helper as bs p (<-wellFounded (steps p))
   helper (a ∷ [])     bs (refl eq)    _ = [ a ]      , bs , eq
   helper (a ∷ b ∷ as) bs (refl eq)    _ = a ∷ b ∷ as , bs , eq
   helper []           bs (prep v≈x _) _ = [] , _ , v≈x ∷ ≋-refl
-  helper (a ∷ as)     bs (prep eq as↭xs) (acc rec) with helper as bs as↭xs (rec _ ≤-refl)
-  ... | (ps , qs , eq₂) = a ∷ ps , qs , eq ∷ eq₂
+  helper (a ∷ as)     bs (prep eq as↭xs) (acc rec)
+    with ps , qs , eq₂ ← helper as bs as↭xs (rec (n<1+n _))
```
Comment (MatthewDaggitt) [inline src/Data/List/Relation/Binary/Permutation/Setoid/Properties.agda:388]: Could we avoid rewriting the `with`s in this PR please? If you would like to change the library style-guide then best to open an issue for it :+1:

**Review by MatthewDaggitt — COMMENTED** [review]
Okay, I'm convinced. The fact that it breaks nothing in the library is pretty good.

File: src/Codata/Musical/Colist/Infinite-merge.agda (hunk 13 above)
Comment (MatthewDaggitt) [reply src/Codata/Musical/Colist/Infinite-merge.agda:198]: In which case probably better to leave it in as an implicit so it's type-checked? Otherwise liable to bit-rot!

File: src/Induction/WellFounded.agda (hunk 12 above)
Comment (jamesmckinna) [reply src/Induction/WellFounded.agda:85]: I reverted the change instead. My nitpicking takes lower priority.

**Comment by jamesmckinna** [comment]
Pushed substantive commits addressing latest round of review comments. Will now fix up `CHANGELOG`.

**Comment by jamesmckinna** [comment]
(Retrospective) note to the future: this change is, moreover, in harmony with the discussion of the Box modality `□` in `Relation.Unary.Closure.Base` of which I had previously been unaware, in the setting of stdlib.
